US07777047B2
ethyl (2-{5-(2-methoxyethoxy)-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate
A mixture of 5-(2-methoxyethoxy)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (920 mg), Lawesson's reagent (690 mg) and tetrahydrofuran (20 mL) was stirred at 50° C. for 2 hr. The reaction mixture was concentrated, and the residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (2:1-1:9, volume ratio) to give a yellow amorphous solid. A mixture of the obtained amorphous solid, ethyl but-2-ynoate (620 mg), tributylphosphine (450 mg), toluene (30 mL) and tetrahydrofuran (15 mL) was stirred at 50° C. for 1 hr. The reaction mixture was concentrated, and the residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (4:1-1:1, volume ratio). The obtained compound was further subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (1:1, volume ratio) to give the title compound (500 mg, yield 42%) as a yellow oil

reactant | 5-(2-methoxyethoxy)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 920 mg | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C=1SC=CC1)C)C(=O)N | C17H19N3O5S2
reactant | Lawesson's reagent | 690 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | ethyl but-2-ynoate | 620 mg | C(C#CC)(=O)OCC | C6H8O2
reactant | tributylphosphine | 450 mg | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl (2-{5-(2-methoxyethoxy)-7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate | 500 mg, yield 42% | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C=1SC=CC1)C)C=1SC(CN1)CC(=O)OCC | C23H27N3O6S3
